US06211242B1
To a solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-carboxymethoxyphenyl)benzamide (295 mg), N-methylpiperazine (60 mg) and 1-hydroxybenzotriazole hydrate (97 mg) in N,N-dimethylformamide (5 ml) was added N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (137 mg) at 0° C. and the mixture was stirred at ambient temperature for 15 hours. The resulting mixture was diluted with ethyl acetate and then the organic layer was washed successively with saturated sodium bicarbonate aqueous solution and brine. Drying, filtering and removal of solvents afforded a crude product. The crude product was chromatographed on silica gel (eluent; 3% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(4-methyl-1-piperazinyl)carbonylmethoxyphenyl]benzamide (213 mg) as a white powder.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-carboxymethoxyphenyl)benzamide | 295 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCC(=O)O)C)C=C1 | C30H26N2O5
reactant | N-methylpiperazine | 60 mg | CN1CCNCC1 | C5H12N2
reactant | 1-hydroxybenzotriazole hydrate | 97 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 137 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(4-methyl-1-piperazinyl)carbonylmethoxyphenyl]benzamide | 213 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCC(=O)N2CCN(CC2)C)C)C=C1 | C35H36N4O4
